US04623648
55.2 g of sodium was added portionwise to 1500 ml of anhydrous methanol. When the reaction was complete 120 g of phenol and 200 g of 2-chloronicotinic acid were added, and the mixture was heated until completely solubilized. The methanol was removed by distillation, and the residue heated to 180°-200° C. for 5 minutes. The molten mass was cooled to about 100° C., and water was added slowly. The solution obtained was acidified with hydrochloric acid. After standing for about 16 hours, the solid obtained was filtered and dried, giving 237.4 g of 2-phenoxynicotinic acid, as white crystals, m.p. 179-181° C. (Kofler micro hot-stage); neutralization equivalent: 215.20 (calculated 216.55).

reactant | sodium | 55.2 g | [Na] | Na
reactant | phenol | 120 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloronicotinic acid | 200 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1500 ml | CO | CH4O
product | 2-phenoxynicotinic acid | 237.4 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=N1 | C12H9NO3
